US08629169B2
Di-tert-butyl (1S,2R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-methylidene-4-oxobicyclo[3.1.0]hexane-2,6-dicarboxylate (1.03 g, 2.43 mmol) in diethyl ether (100 mL) is bubbled with nitrogen gas for 10 minutes. Add 3,4-difluorobenzenethiol (0.36 g, 2.43 mmol) and triethylamine (0.01 mL, 0.05 μmol). The mixture is warmed to 40° C. and stirred for 15 minutes. The mixture is then allowed to cool to ambient temperature, transferred to a separatory funnel, diluted with hexane (40 mL), washed with of 2N aqueous KOH (1×30 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure giving di-tert-butyl (1S,2R,3S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-oxobicyclo[3.1.0]hexane-2,6-dicarboxylate (1.35 g, 2.37 mmol): MS (m/z): 567.8 (M−H). This material is taken up in 120 mL of diethyl ether and added slowly over 2 hours to a 200 mL ether solution at −10° C. which contains R-(+)-2-methyl-CBS-oxazaborolidine (981.72 mg, 3.54 mmol) and borane-methyl sulfide complex (2M in tetrahydrofuran, 5.02 mL, 10.04 mmol). The mixture is stirred for an additional hour after final addition of di-tert-butyl (1S,2R,3S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-oxobicyclo[3.1.0]hexane-2,6-dicarboxylate. Silica gel (30 g) is added over 30 minutes and the reaction mixture is gradually warmed to ambient temperature. The suspension is filtered, and washed with 300 mL of diethyl ether. The solvent is concentrated under reduced pressure giving a residue. The residue is purified by flash chromatography, eluting with (0 to 15% ethyl acetate/hexanes) to give the title compound (0.844 g, 1.48 mmol, 60.7% yield): MS (m/z): 569.8 (M−H).

reactant | Di-tert-butyl (1S,2R,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-methylidene-4-oxobicyclo[3.1.0]hexane-2,6-dicarboxylate | 2.43 mmol, 1.03 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C(C1=C)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H33NO7
reactant | 3,4-difluorobenzenethiol | 2.43 mmol, 0.36 g | FC=1C=C(C=CC1F)S | C6H4F2S
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | hexane | 40 mL | CCCCCC | C6H14
catalyst | triethylamine | 0.05 μmol, 0.01 mL | C(C)N(CC)CC | C6H15N
product | di-tert-butyl (1S,2R,3S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-oxobicyclo[3.1.0]hexane-2,6-dicarboxylate | 2.37 mmol, 1.35 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C([C@H]1CSC1=CC(=C(C=C1)F)F)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C28H37F2NO7S
